US05185330
In 80 ml of methylene chloride was dissolved 7.50 g of (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxoimidazoldin-1-yl)-3-diphenylmethyloxycarbonyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane. Thereto was added 5 g of S-p-methoxybenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine. The mixture was stirred at room temperature for 2 hours. The reaction mixture was mixed with 80 ml of water, and the resulting mixture was adjusted to pH 7.0 with a saturated aqueous sodium hydrogencarbonate solution. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: chloroform/acetone=1/0 to 25/1) to obtain 8.36 g (yield: 85.2%) of (3R,5R,6R)-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-diphenylmethyloxycarbonyl-6-(p-methoxybenzyloxycarbonylamino)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane.

reactant | (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxoimidazoldin-1-yl)-3-diphenylmethyloxycarbonyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane | 7.50 g | N[C@H]1[C@H]2S[C@](CN2C1=O)(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)N1C(N(CC1)N=CC1=CC=CC=C1)=O | C29H27N5O4S
reactant | S-p-methoxybenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine | 5 g | COC1=CC=C(COC(=O)SC2=NC(=CC(=N2)C)C)C=C1 | C15H16N2O3S
reactant | water | 80 ml | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | (3R,5R,6R)-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-diphenylmethyloxycarbonyl-6-(p-methoxybenzyloxycarbonylamino)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane | 8.36 g, yield: 85.2% | C(C1=CC=CC=C1)=NN1C(N(CC1)[C@@]1(CN2C([C@H]([C@H]2S1)NC(=O)OCC1=CC=C(C=C1)OC)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C38H35N5O7S
